US03988339
7-Amino-8-chloro-1,2,3,4-tetrahydroisoquinoline is treated with one molar equivalent of isopropenyl acetate by the procedure of Example 15 to give 2-acetyl-7-amino-8-chloro-1,2,3,4-tetrahydroisoquinoline.

reactant | 7-Amino-8-chloro-1,2,3,4-tetrahydroisoquinoline | NC1=CC=C2CCNCC2=C1Cl | C9H11ClN2
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
product | 2-acetyl-7-amino-8-chloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)N)Cl | C11H13ClN2O
